US06716851B2
4-(3-Methoxyanilino)-6-methyl-2-(3-methylphenyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(3-methylphenyl)pyrimidine (100 mg, 0.457 mmol) and m-anisidine (51 μl, 0.457 mmol) similar to Example 11 as a pale yellow solid (11 mg, 8%). 1H NMR (DMSO-d6): 8.09 (s, 1H), 8.05 (d, J=7.5 Hz, 1H), 7.54-7.49 (m, 4H), 7.35 (t, J=8.1 Hz, 1H), 7.21 (s, 1H), 6.78 (s, 2H), 3.81 (s, 3H), 2.43 (s, 6H).

reactant | 4-chloro-6-methyl-2-(3-methylphenyl)pyrimidine | 0.457 mmol, 100 mg | ClC1=NC(=NC(=C1)C)C1=CC(=CC=C1)C | C12H11ClN2
reactant | m-anisidine | 0.457 mmol, 51 μl | COC1=CC(=CC=C1)N | C7H9NO
product | 4-(3-Methoxyanilino)-6-methyl-2-(3-methylphenyl)pyrimidine | COC=1C=C(NC2=NC(=NC(=C2)C)C2=CC(=CC=C2)C)C=CC1 | C19H19N3O
